US05977105
A mixture of ammonium formate (2.0 g), palladium on charcoal (10%; 0.5 g) and 5-(6-methoxy-2-naphthyl)ethyl-1-(3-pyridyl)-1-penten-3-one (0.7 g) in ethanol (50 ml) was heated at reflux for 5 minutes. The reaction mixture was then filtered through Celite and concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with ethyl acetate:dichloromethane (1:5) to give 5-(6methoxy-2-naphthyl)ethyl-1-(3-pyridyl)-3-pentanone (0.3 g). The latter (0.2 g) was dissolved in ethanol (20 ml) and solid sodium borohydride (0.1 g) was added over 10 minutes. The solution was concentrated under reduced pressure and the residue was purified by column chromatography over silica eluting with ethyl acetate to give the title compound as a solid (0.1 g).

reactant | ammonium formate | 2.0 g | C(=O)[O-].[NH4+]
reactant | 5-(6-methoxy-2-naphthyl)ethyl-1-(3-pyridyl)-1-penten-3-one | 0.7 g | COC=1C=C2C=CC(=CC2=CC1)CCCCC(C=CC=1C=NC=CC1)=O | C23H23NO2
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(6methoxy-2-naphthyl)ethyl-1-(3-pyridyl)-3-pentanone | 0.3 g | COC=1C=C2C=CC(=CC2=CC1)CCCCC(CCC=1C=NC=CC1)=O | C23H25NO2
